US04260619
The starting material is prepared as follows: The mixture of 8.64 g of 5-hydroxy-2-pyridylacetone, 4.08 g of hydroxylamine hydrochloride and 170 ml of anhydrous ethanol is refluxed for 64 hours and evaporated. The residue is taken up in the minimum amount of ethanol, the solution filtered and the filtrate evaporated, to yield the 2-(2-oximinopropyl)-5-pyridinol hydrochloride melting at 141°-145°.

reactant | 5-hydroxy-2-pyridylacetone | 8.64 g | OC=1C=CC(=NC1)CC(C)=O | C8H9NO2
reactant | hydroxylamine hydrochloride | 4.08 g | Cl.NO
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | 2-(2-oximinopropyl)-5-pyridinol hydrochloride | Cl.N(O)=C(CC1=NC=C(C=C1)O)C | InChI=1S/C8H10N2O2.ClH/c1-6(10-12)4-7-2-3-8(11)5-9-7;/h2-3,5,11-12H,4H2,1H3;1H
